US05747443
Preparation of 3-(pentyloxy)-1,2-propanediol
A 3-neck, 2-liter round bottomed reaction flask (equipped with overhead stirrer, cold water condenser, mercury thermometer and addition funnel) are charged with about 546 g of aqueous NaOH (about 50% concentration) and about 38.5 g of tetrabutylammonium hydrogen sulfate (PTC, phase transfer catalyst). The content of the flask is stirred to achieve dissolution and then about 200 g of 1-pentanol is added along with about 400 ml hexanes (a mixture of isomers, with about 85% n-hexane). Into the addition funnel is charged about 418 g of epichlorohydrin which is slowly added (dropwise) to the stirring reaction mix. The temperature gradually rises to about 68° C. due to the reaction exotherm. The reaction is allowed to continue for about 1 hr after complete addition of the epichlorohydrin (no additional heat).

reactant | water | O | H2O
reactant | NaOH | about 546 g | [OH-].[Na+]
reactant | 1-pentanol | about 200 g | C(CCCC)O | C5H12O
reactant | epichlorohydrin | about 418 g | C(Cl)C1CO1 | C3H5ClO
catalyst | tetrabutylammonium hydrogen sulfate | about 38.5 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | mercury | [Hg] | Hg
solvent | n-hexane | CCCCCC | C6H14
product | 3-(pentyloxy)-1,2-propanediol | C(CCCC)OCC(CO)O | C8H18O3
